US08252935B2
b) 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To compound 51a, 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester (62.0 mg, 0.10 mmol) in EtOH (5.0 ml) was added 2M KOH (0.50 ml, 1.0 mmol). The reaction was heated to 78° C. for 3 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (45.5 mg, 71%). 1H NMR (300 MHz, MeOD) δ ppm 0.95 (d, J=6.41 Hz, 6 H) 1.49 (dq, J=13.33, 6.61 Hz, 1 H) 1.67 (ddd, J=13.75, 7.16, 6.97 Hz, 1 H) 1.89-2.14 (m, 6 H) 3.00-3.14 (m, 1 H) 3.14-3.26 (m, 2 H) 3.47-3.60 (m, 2 H) 3.76 (t, J=7.72 Hz, 1 H) 3.94 (s, 3 H) 4.30-4.43 (m, 2 H) 7.27-7.34 (m, 2 H) 7.50 (s, 1 H) 7.58 (s, 1 H) 7.72-7.83 (m, 5 H) Calcd for C33H35F6NO3 (M+H) 607.63, Found 608.4.

reactant | 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 0.10 mmol, 62.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC(=C(C=C1)OC)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H39F6NO3
reactant | KOH | 1.0 mmol, 2M, 0.50 ml | [OH-].[K+]
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 2-{5-[1-(4-Methoxy-3-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | COC1=C(C=C(CN2CC(CCC2)C=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C)C=C1)C(F)(F)F | C33H35F6NO3
